US08202993B2
To a solution of 30 mg (0.09 mmol) of 5-chloro-7-(4-methyl-piperazin-1-ylmethyl)-1H-indole-2-carboxylic acid ethyl ester in THF/EtOH/H2O (2.5 ml) at RT was added 6 mg of LiOH.H2O. The reaction mixture was stirred at 45° C. for one hour and then acidified with aqueous HCl 1M. The product was extracted with EtOAc and concentrated under vacuo to afford 10 mg (36%) of 5-chloro-7-(4-methyl-piperazin-1-ylmethyl)-1H-indole-2-carboxylic acid as a white solid. ES-MS m/e (%): 306.2 (M−H+).

reactant | 5-chloro-7-(4-methyl-piperazin-1-ylmethyl)-1H-indole-2-carboxylic acid ethyl ester | 0.09 mmol, 30 mg | C(C)OC(=O)C=1NC2=C(C=C(C=C2C1)Cl)CN1CCN(CC1)C | C17H22ClN3O2
reactant | LiOH.H2O | 6 mg | O[Li].O
reactant | HCl | 1M | Cl | ClH
solvent | THF EtOH H2O | 2.5 ml | C1CCOC1.CCO.O
product | 5-chloro-7-(4-methyl-piperazin-1-ylmethyl)-1H-indole-2-carboxylic acid | 10 mg, 36% | ClC=1C=C2C=C(NC2=C(C1)CN1CCN(CC1)C)C(=O)O | C15H18ClN3O2
